### PR TITLE
fix: some goal state issues

### LINKED ISSUE #2881: can't see goal state after case tactic
### Prerequisites

* [X] Put an X between the brackets on this line if you have done all of the following:
    * Check that your issue is not already [filed](https://github.com/leanprover/lean4/issues).
    * Reduce the issue to a minimal, self-contained, reproducible test case. Avoid dependencies to mathlib4 or std4.

### Description

In the following example, if you put your cursor on the empty line, indented two spaces (i.e. where the next tactic should be), the goal state shows `no goals` (i.e. the goal state of finished case `zero`). 
It should show the goal state of the remaining goal(s).
```
example (n : Nat) : n = n := by
  induction n
  case zero => rfl
  
--^
```
(note: the same occurs when there is a multi-line tactic block after `case zero`).

### Context

[Zulip thread](https://leanprover.zulipchat.com/#narrow/stream/270676-lean4/topic/.5Bsmall.20bug.5D.20can't.20see.20goal.20state.20after.20case.20tactic)

### Versions

Lean 4.2.0

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.

### PR DESCRIPTION
**Pull request by mhuisi**
This PR resolves the following issues related to goal state display:
1. In a new line after a `case` tactic with a completed proof, the state of the proof in the `case` would be displayed, not the proof state after the `case`
1. In the range of `next =>` / `case' ... =>`, the state of the proof in the corresponding case would not be displayed, whereas this is true for `case`
1. In the `suffices ... by` tactic, the tactic state of the `by` block was not displayed after the `by` and before the first tactic 

The incorrect goal state after `case` was caused by `evalCase` adding a `TacticInfo` with the full block proof state for the full range of the `case` block that the goal state selection has no means of distinguishing from the `TacticInfo` with the same range that contains the state after the whole `case` block. Narrowing the range of this `TacticInfo` to `case ... =>` fixed this issue.

The lack of a case proof state on `next =>` was caused by the `case` syntax that `next` expands to receiving noncanonical synthetic `SourceInfo`, which is usually ignored by the language server. Adding a token antiquotation for `next` fixed this issue.

The lack of a case proof state on `case' ... =>` was caused by `evalCase'` not adding a `TacticInfo` with the full block state to the range of `case' ... =>`. Adding this `TacticInfo` fixed this issue.

The tactic state of the block not being displayed after the `by` was caused by the macro expansion of `suffices` to `have` not transferring the trailing whitespace of the `by`. Ensuring that this trailing whitespace information is transferred fixed this issue.

Fixes #2881.

### CODE REVIEW

File: src/Lean/Elab/BuiltinNotation.lean [hunk 1]
```diff
@@ -135,13 +135,19 @@ open Meta
...
-  | `(suffices%$tk $hy:hygieneInfo $type from $val; $body)            => `(have%$tk $hy:hygieneInfo : $type := $body; $val)
-  | `(suffices%$tk $x:ident      : $type by%$b $tac:tacticSeq; $body) => `(have%$tk $x : $type := $body; by%$b $tac)
-  | `(suffices%$tk _%$x          : $type by%$b $tac:tacticSeq; $body) => `(have%$tk _%$x : $type := $body; by%$b $tac)
-  | `(suffices%$tk $hy:hygieneInfo $type by%$b $tac:tacticSeq; $body) => `(have%$tk $hy:hygieneInfo : $type := $body; by%$b $tac)
-  | _                                                                 => Macro.throwUnsupported
+  | `(suffices%$tk $x:ident      : $type from $val; $body)   => `(have%$tk $x : $type := $body; $val)
+  | `(suffices%$tk _%$x          : $type from $val; $body)   => `(have%$tk _%$x : $type := $body; $val)
+  | `(suffices%$tk $hy:hygieneInfo $type from $val; $body)   => `(have%$tk $hy:hygieneInfo : $type := $body; $val)
+  | `(suffices%$tk $x:ident      : $type $b:byTactic'; $body) =>
+    let b := ⟨b.raw.setKind `Lean.Parser.Term.byTactic⟩
```
Comment (Kha) [inline src/Lean/Elab/BuiltinNotation.lean:142]: Should probably have a comment

**Review by Kha — APPROVED** [review]

**Comment by nomeata** [comment]
Thanks a lot in advance, this will be a significant user experience improvement. Just two days ago at the tutorial I had to embarrassingly place `skip` or `done` tactics around, so hopefully at the next tutorial I won't have to do that anymore!
